US07612075B2
To a suspension of NaH (60%, 1.0 g, 25.2 mmol) in anhydrous THF (50 mL) at 0° C. is added 5-chloro-indole (2.73 g, 18.0 mmol). After 20 min, di-t-butyl dicarbonate (4.71 g, 21.6 mmol) is added and the reaction mixture is maintained at 0° C. for 4 h. The reaction mixture is partitioned between diethyl ether (100 mL) and saturated aqueous NH4Cl (100 mL) and the layers are separated. The aqueous phase is extracted twice with diethyl ether (2×50 mL) and then the combined organic extracts are washed once with brine, dried over anhydrous MgSO4, filtered and concentrated. The crude product is purified by flash silica gel chromatography (hexane/EtOAc, 30:1 to 20:1) to provide 4.0 g (89%) of 5-chloro-indole-1-carboxylic acid tert-butyl ester as a colorless solid. 1H NMR (300 MHz, CDCl3) δ1.66 (s, 9H), 6.50 (d, J=3.5 Hz, 1H), 7.27 (m, 1H), 7.52 (s, 1H), 7.60 (d, J=3.3 Hz, 1H), 8.06 (d, J=8.6 Hz, 1H) ppm.

reactant | NaH | 25.2 mmol, 1.0 g | [H-].[Na+]
reactant | 5-chloro-indole | 18.0 mmol, 2.73 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | di-t-butyl dicarbonate | 21.6 mmol, 4.71 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-chloro-indole-1-carboxylic acid tert-butyl ester | 4.0 g, 89% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)Cl | C13H14ClNO2
